US05804588
8-Methoxy-2-methylquinoline-5-carboxylic acid
A mixtures of 5-bromo-8-methoxy-2-methylquinoline (2.0 g), triethylamine (11 ml), triphenylphosphine (0.79 g), and bis(tripbenylphosphine)palladium (II) chloride (1.56 g) in tetrahydrofuran (200 ml) and water (90 ml) was stirred in a pressurised reaction vessel and charged with carbon monoxide to a pressure of 160 psi. The vessel was heated to 80° C. and stirred for 72 hours. The reaction was allowed to cool and depressurised. The mixture was filtered ant the organic solvent was removed in vacuo. The aqueous residue was basified with 1M sodium hydroxide and washed with ethyl acetate (300ml). The aqueous solution was acidified to pH 5 with glacial acetic acid and extracted with ethyl acetate (2×400 ml). The organic extracts were combined, dried over magnesium sulphate, filtered and the filtrate evaporated in vacuo to yield the title product (1.0 g) as an off-white solid.

reactant | 5-bromo-8-methoxy-2-methylquinoline | 2.0 g | BrC1=C2C=CC(=NC2=C(C=C1)OC)C | C11H10BrNO
reactant | triethylamine | 11 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.79 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon monoxide | [C]=O | CO
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 90 ml | O | H2O
catalyst | bis(tripbenylphosphine)palladium (II) chloride | 1.56 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 8-Methoxy-2-methylquinoline-5-carboxylic acid | 1.0 g | COC1=CC=C(C=2C=CC(=NC12)C)C(=O)O | C12H11NO3
